* SPICE NETLIST
***************************************

.SUBCKT pad_bond pin0
.ENDS
***************************************
.SUBCKT pad_microprobe pin0
.ENDS
***************************************
.SUBCKT pad_probe pin0
.ENDS
***************************************
.SUBCKT nmos_de_iso_v20 src gate drn b sub
.ENDS
***************************************
.SUBCKT AND2X1 GND VDD A B Y
** N=78 EP=5 IP=0 FDC=9
M0 GND A 6 78 nmos L=0.163119 W=2.35104 $X=840 $Y=785 $D=3
M1 3 B 6 78 nmos L=0.163346 W=2.31104 $X=1810 $Y=825 $D=3
M2 Y 3 GND 78 nmos L=0.163346 W=2.31104 $X=4105 $Y=830 $D=3
M3 3 A VDD 76 pmos L=0.15 W=2 AD=0.57 AS=0.57 PD=2.57 PS=2.57 NRD=0 NRS=0 m=1 $X=935 $Y=5020 $D=27
M4 VDD A 3 76 pmos L=0.15 W=2 AD=0.58 AS=0.58 PD=2.58 PS=2.58 NRD=0 NRS=0 m=1 $X=1375 $Y=5020 $D=27
M5 3 B VDD 76 pmos L=0.15 W=2 AD=0.58 AS=0.58 PD=2.58 PS=2.58 NRD=0 NRS=0 m=1 $X=1815 $Y=5020 $D=27
M6 VDD B 3 76 pmos L=0.15 W=2 AD=0.56 AS=0.56 PD=2.56 PS=2.56 NRD=0 NRS=0 m=1 $X=2255 $Y=5020 $D=27
M7 Y 3 VDD 76 pmos L=0.15 W=2 AD=0.57 AS=0.57 PD=2.57 PS=2.57 NRD=0 NRS=0 m=1 $X=4150 $Y=5020 $D=27
M8 VDD 3 Y 76 pmos L=0.15 W=2 AD=0.56 AS=0.56 PD=2.56 PS=2.56 NRD=0 NRS=0 m=1 $X=4590 $Y=5020 $D=27
.ENDS
***************************************
